US05721234
8-Methylamino-6-nitro-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione.
A mixture of 8-dimethylamino-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione hydrochloride (0.39 g) in trifluoroacetic acid was cooled in an ice bath and then treated with fuming nitric acid (1 mL). After stirring for 1 h, the mixture was warmed to room temperature for 3 h. The solvent was evaporated and the residue suspended in methanol. The resulting yellow solid was collected by filtration and dried. Calc'd for C12H12 N4O4.CH4O3S: C, 41.93; H, 4.33; N, 15.05; found: C, 39.56; H, 4.11; N, 13,61. Ms M+1 (277).

reactant | 8-dimethylamino-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione hydrochloride | 0.39 g | Cl.CN(C1CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1)C
reactant | nitric acid | 1 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 8-Methylamino-6-nitro-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione | CNC1CC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C12H12N4O4
